US04141990
A solution of 82.7 g (0.288 mole) of 2-bromo-7-methyl-3-phenylbenzofuran and 18.1 g (0.144 mole) of cyclohexene-4-carboxylic acid in 500 ml of acetic acid is treated over about 30 minutes with 13.2 g (0.144 mole) of dinitrogen tetraoxide in 20 ml of acetic acid. After about two hours 21.8 g (0.173 mole) of cyclohexene-4-carboxylic acid and 15.9 g (0.173 mole) of dinitrogen tetroxide in 25 ml of acetic acid is added. After about 5 additional hours the reaction mixture is poured into cold water to give the crude product as a gum. Trituration with diethyl ether gives a solid which is recrystallized from cyclohexane and carbon tetrachloride to provide yellow solid 7-methyl-2-nitro-2-phenylbenzofuran, m.p. 122°-126° C.

reactant | 2-bromo-7-methyl-3-phenylbenzofuran | 0.288 mole, 82.7 g | BrC=1OC2=C(C1C1=CC=CC=C1)C=CC=C2C | C15H11BrO
reactant | cyclohexene-4-carboxylic acid | 0.144 mole, 18.1 g | C1=CCC(CC1)C(=O)O | C7H10O2
reactant | dinitrogen tetraoxide | 0.144 mole, 13.2 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | cyclohexene-4-carboxylic acid | 0.173 mole, 21.8 g | C1=CCC(CC1)C(=O)O | C7H10O2
reactant | dinitrogen tetroxide | 0.173 mole, 15.9 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | water | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-methyl-2-nitro-2-phenylbenzofuran | CC1=CC=CC=2CC(OC21)(C2=CC=CC=C2)[N+](=O)[O-] | C15H13NO3
